US07452993B2
Methyl 3-amino-2-pyrazinecarboxylate (10 g, 65.3 mmol) and N-iodosuccinimide (24 g, 106.7 mmol) were dissolved in anhydrous DMF (150 mL) and the mixture was stirred at 70° C. for 15 hours under a nitrogen atmosphere. The mixture was then cooled to room temperature and a saturated aqueous solution of sodium thiosulfate (400 mL) was added. The suspension was sonicated for 15 minutes, concentrated under vacuum and dispersed in water. The crude product was filtered off and washed with cold ethanol. The residue was crystallized from ethanol, using decolorizing charcoal to afford 3-amino-6-iodo-pyrazine-2-carboxylic acid methyl ester (11.2 g, 61% yield) as orange needles. 1H-NMR (d6-DMSO) δ: 8.57 [1H] s, 7.59 [2H] s,br, 3.93 [3H] s. MS: m/z 280 [MH+].

reactant | Methyl 3-amino-2-pyrazinecarboxylate | 65.3 mmol, 10 g | NC=1C(=NC=CN1)C(=O)OC | C6H7N3O2
reactant | N-iodosuccinimide | 106.7 mmol, 24 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium thiosulfate | 400 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 3-amino-6-iodo-pyrazine-2-carboxylic acid methyl ester | 11.2 g, 61% yield | COC(=O)C1=NC(=CN=C1N)I | C6H6IN3O2
